US09428469B2
1-Cyano-3-(3,5-dichlorophenyl)-2-methyl-2-thiopseudourea
To a solution of 1,3-dichloro-5-isothiocyanatobenzene (10 g, 49.0 mmol, Adrich) in acetonitrile (90 ml) and MeOH (100 ml) was added a suspension of sodium hydrogencyanamide (3.45 g, 53.9 mmol) in MeOH (30 ml). The reaction was stirred at room temperature for 1 hour and methyl iodide (13.9 g, 6.13 ml, 98.0 mmol) was added. Continued stirring for 4 hours, and the reaction mixture was filtered, and washed with acetonitrile to give a white solid as desired product (8.04 g, 63% yield).

reactant | 1,3-dichloro-5-isothiocyanatobenzene | 49.0 mmol, 10 g | ClC1=CC(=CC(=C1)N=C=S)Cl | C7H3Cl2NS
reactant | sodium hydrogencyanamide | 53.9 mmol, 3.45 g | C(#N)[NH-].[Na+]
reactant | methyl iodide | 98.0 mmol, 6.13 ml, 13.9 g | CI | CH3I
solvent | acetonitrile | 90 ml | C(C)#N | C2H3N
solvent | MeOH | 100 ml | CO | CH4O
solvent | MeOH | 30 ml | CO | CH4O
product | 1-Cyano-3-(3,5-dichlorophenyl)-2-methyl-2-thiopseudourea | 8.04 g, 63% yield | C(#N)NC(SC)=NC1=CC(=CC(=C1)Cl)Cl | C9H7Cl2N3S
